US07977327B2
4-[(3S,4S)-3-(tert-Butoxycarbonyl)amino-4-methylpyrrolidin-1-yl]-2,5-difluoro-3-methylbenzoic acid
A 1 mol/L aqueous sodium hydroxide solution (15 mL, 15 mmol) was added under cooling with ice to a solution of ethyl 4-[(3S,4S)-3-(tert-butoxycarbonyl)amino-4-methylpyrrolidin-1-yl]-2,5-difluoro-3-methylbenzoate (2.51 g, 6.30 mmol) in ethanol (20 mL), followed by stirring at room temperature for 20 hours. The resultant mixture was neutralized with 1 mol/L hydrochloric acid under cooling with ice, and ethanol was removed under reduced pressure. Subsequently, 1 mol/L hydrochloric acid was added to the residue, and the mixture was extracted with ethyl acetate (200 mL×2), followed by drying over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and dried under reduced pressure (solvent), to thereby yield the title compound as a yellow oily substance (2.20 g, quantitative amount). The product was employed, without further purification, in the subsequent step.

reactant | sodium hydroxide | 15 mmol, 1 mol/L, 15 mL | [OH-].[Na+]
reactant | ethyl 4-[(3S,4S)-3-(tert-butoxycarbonyl)amino-4-methylpyrrolidin-1-yl]-2,5-difluoro-3-methylbenzoate | 6.30 mmol, 2.51 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1C)C1=C(C(=C(C(=O)OCC)C=C1F)F)C | C20H28F2N2O4
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-[(3S,4S)-3-(tert-Butoxycarbonyl)amino-4-methylpyrrolidin-1-yl]-2,5-difluoro-3-methylbenzoic acid | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1C)C1=C(C(=C(C(=O)O)C=C1F)F)C | C18H24F2N2O4
